US08791132B2
To a stirred solution of 2-(1,2,3,4-tetrahydro-8-methylpyrido[4,3-b]indol-5-yl)-1-(pyridin-4-yl)ethanol (300 mg, 0.977 mmol) and triethyl amine (0.18 mL, 1.27 mmol) in DCM (6 mL) was added ethyl chloroformate (138 mg, 1.27 mmol), and the reaction mixture stirred at RT for 2 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was diluted with DCM and washed with water. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH-DCM) to yield ethyl 3,4-dihydro-5-(2-hydroxy-2-(pyridin-4-yl)ethyl)-8-methyl-1H-pyrido[4,3-b]indole-2(5H)-carboxylate (170 mg). 1H NMR (CDCl3, freebase) δ (ppm): 8.4 (d, 2H), 7.21 (m, 4H), 7.0 (d, 1H), 5.03 (t, 1H), 4.6 (m, 2H), 4.21 (m, 4H), 3.78 (m, 2H), 3.6 (m, 1H), 2.75 (m, 1H), 2.4 (s, 3H), 1.28 (t, 3H). Separation by chiral HPLC provides enantiomers 72a and 72b.

reactant | 2-(1,2,3,4-tetrahydro-8-methylpyrido[4,3-b]indol-5-yl)-1-(pyridin-4-yl)ethanol | 0.977 mmol, 300 mg | CC1=CC=2C3=C(N(C2C=C1)CC(O)C1=CC=NC=C1)CCNC3 | C19H21N3O
reactant | triethyl amine | 1.27 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.27 mmol, 138 mg | ClC(=O)OCC | C3H5ClO2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3,4-dihydro-5-(2-hydroxy-2-(pyridin-4-yl)ethyl)-8-methyl-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 170 mg | OC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C(=O)OCC)C2=CC=NC=C2 | C22H25N3O3
